US08685969B2
3. Benzyl 3-(2-amino-1-(5-morpholino-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate
A solution of benzyl 2-methyl-3-(1-(5-morpholino-1H-indol-3-yl)-2-nitroethyl)phenylcarbamate (0.8011 g, 1.557 mmol), ammonium chloride (1.249 g, 23.35 mmol) and zinc (1.527 g, 23.35 mmol) in methanol (32.4 mL) and tetrahydrofuran (32.4 mL) was stirred for 2 hr. The reaction was filtered through a pad of CELITE® and rinsed with methanol. The filtrate was concentrated in vacuo, dissolved in EtOAc and water. The layers were separated, and the aqueous layer was extracted with EtOAc (6×). The aqueous layer was basified by NaHCO3 (s) and extracted with EtOAc (3×). The organic layers were combined, dried over MgSO4, and concentrated in vacuo to give the desired product (0.7121 g, 1.337 mmol, 86% yield) as a tan solid.

reactant | benzyl 2-methyl-3-(1-(5-morpholino-1H-indol-3-yl)-2-nitroethyl)phenylcarbamate | 1.557 mmol, 0.8011 g | CC1=C(C=CC=C1C(C[N+](=O)[O-])C1=CNC2=CC=C(C=C12)N1CCOCC1)NC(OCC1=CC=CC=C1)=O | C29H30N4O5
reactant | ammonium chloride | 23.35 mmol, 1.249 g | [Cl-].[NH4+]
solvent | methanol | 32.4 mL | CO | CH4O
solvent | tetrahydrofuran | 32.4 mL | O1CCCC1 | C4H8O
catalyst | zinc | 23.35 mmol, 1.527 g | [Zn] | Zn
product | Benzyl 3-(2-amino-1-(5-morpholino-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate | 1.337 mmol, 0.7121 g, 86% yield | NCC(C1=CNC2=CC=C(C=C12)N1CCOCC1)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C29H32N4O3
